US08912188B2
To a solution of methyl 3-chloro-2-oxo-1,2-dihydroquinoxaline-6-carboxylate (600 mg, 2.51 mmol) in DMSO (8 mL) was added DIEA (650 mg, 5.03 mmol), and (2R)-2-(methoxymethyl)pyrrolidine (318 mg, 2.76 mmol). The solution was stirred for 4 h at 75° C. Then the reaction was quenched by the addition of water (50 mL) to give the precipitate, which was collected by filtration to afford methyl 3-[(2R)-2-(methoxymethyl)pyrrolidin-1-yl]-2-oxo-1,2-dihydroquinoxaline-6-carboxylate as a gray solid (650 mg, 81%).

reactant | methyl 3-chloro-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 2.51 mmol, 600 mg | ClC=1C(NC2=CC=C(C=C2N1)C(=O)OC)=O | C10H7ClN2O3
reactant | DIEA | 5.03 mmol, 650 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | (2R)-2-(methoxymethyl)pyrrolidine | 2.76 mmol, 318 mg | COC[C@@H]1NCCC1 | C6H13NO
solvent | DMSO | 8 mL | CS(=O)C | C2H6OS
product | methyl 3-[(2R)-2-(methoxymethyl)pyrrolidin-1-yl]-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 650 mg, 81% | COC[C@@H]1N(CCC1)C=1C(NC2=CC=C(C=C2N1)C(=O)OC)=O | C16H19N3O4
